US08247401B2
Step A: Methyl 3-bromo-5-(5-methylpyridin-2-yl)benzoate
To a solution methyl-3-bromo-5-iodobenzoate (10.0 g, 29.3 mmol) and 5-methyl-2-pyridylzinc bromide (0.5 M in THF; 64.5 mL, 32.3 mmol) in tetrahydrofuran (84 mL) was added tetrakis(triphenylphosphine)palladium(0) (1.70 g, 1.47 mmol). The reaction mixture was stirred at ambient temperature. After 6 h, saturated aqueous sodium bicarbonate was added. The mixture was extracted with ethyl acetate (3×). The combined organic extracts were washed with sodium potassium tartrate tetrahydrate (2×), brine, dried over magnesium sulfate, filtered and concentrated. Purification by silica gel chromatography (100% dichloromethane→95% dichloromethane/ethyl acetate) gave the title compound. MS 306.0 (M).

reactant | methyl-3-bromo-5-iodobenzoate | 29.3 mmol, 10.0 g | COC(C1=CC(=CC(=C1)I)Br)=O | C8H6BrIO2
reactant | 5-methyl-2-pyridylzinc bromide | 32.3 mmol, 0.5 M, 64.5 mL | [Br-].CC=1C=CC(=NC1)[Zn+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 84 mL | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 1.47 mmol, 1.70 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Methyl 3-bromo-5-(5-methylpyridin-2-yl)benzoate | BrC=1C=C(C(=O)OC)C=C(C1)C1=NC=C(C=C1)C | C14H12BrNO2
